Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cc:" I am glad I am alive"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with no past psychiatric history who
was brought to the hospital by EMS on ___ after disclosing to 
a
friend that he had overdosed on acetaminophen (ingestion took
place at ~21:00 on ___. Patient initially presented to ___ and there acetaminophen level was ~6 and NAC was
initiated. He was transferred to ___ the early evening of 
___
and admitted to the medical floor. Psychiatry is consulted for
risk assessment in the setting of a suicide attempt.
     Patient reports that he has been feeling "depressed" and 
has
been sleeping and eating poorly for the past few weeks. He 
states
he sleeps "at the most 6 hours" each night. He is an 
___
student at ___ and states that
academic pressure has been mounting this semester. He remains in
good academic standing, but says that he is "always behind" and
describes his major's evaluation system as strict and very
unpredictable. He said that prior to the ingestion, he had
thoughts about "how it would be easier if it could all just be
over" and took 100 500mg pills of acetaminophen with the intent
of ending his life. He reports that shortly after the ingestion,
he sent a message to one of his close friends to tell her what 
he
did "because I didn't want to just leave everyone without saying
anything". This friend notified the patient's mother and aunt,
who then called ___.
     In addition to his academic stress, patient describes a
recent legal problem he has encountered which became acutely
distressing for him the day prior to this suicide attempt.
Approximately three weeks ago, he states he found a debit card 
on
the ground. He made some purchases with the card. On ___, he
states that police came to his place of work and asked to speak
with him about it. At that point, he explained what he had done
and turned the card into the police. He reports that an officer
"read me my rights" and had him sign a piece of paper at the
time. He now is unsure what consequences/charges he may face
because of this incident.
     After the ingestion, patient reports he vomited repeatedly
(involuntarily) and experienced abdominal pain. "It's more work
to leave than it is to stay". He states that he now feels 
"happy"
that he did not die, and says "I have a lot to live for; I have 
a
lot to look forward to."

COLLATERAL:
Source: Patient's mother, who accompanies him to the medical
floor. Spoke with her separately from the patient.

     She reports that the patient has never had any mental 
health
issues, and that this incident has been "a shock". She is not
aware of any history of self harm or suicide attempts. She
reports they have a large and very close family, and she feels
that the patient has a lot of social support. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: None.
Current treaters and treatment: None.
Medication and ECT trials: None.
Self-injury: As above. None prior to this attempt.
Harm to others: Denies.
Access to weapons: Denies.

PAST MEDICAL HISTORY;
denies
 
Social History:
___
Family History:
denies
 
Physical Exam:
ON ADMISSION:

Vital Signs:
T: 98.5   BP: 107 / 65   HR 65   RR 18    O2 sat 97 Ra 

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing, able to walk in tandem without difficulty, Romberg absent

Mental Status Exam:
Appearance: fair grooming 
Facial expression: neutral, shy looking
build: WNL
Behavior: engaging, addressing questions, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect "I am glad I am alive", sad, no irritability, 
anxious
Thought Process/content: reality oriented, goal directed, denies
SI in the unit, denies HI, denies AH/VH/paranoid delusions
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
insight: poor
Judgment: poor

ON DISCHARGE:
Mental Status Exam:
Appearance: well groomed, 
Facial expression: friendly, smiling on approach
build: ___
Behavior: engaging, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect "OK", stable, much brighter, hopeful, 
Thought Process/content: reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt Ct 
 7.1 5.50 14.7 41.1 75* 26.7 35.8 15.0 39.5 174 

 Glucose UreaN Creat Na K Cl HCO3 AnGap 
 ___ 141 3.9 95 24 ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) MDD, recurrent, severe, without psychotic features: Pt was 
admitted to the inpatient psychiatric unit on ___ 
(following 7 day medical hospitalization from ___ after 
overdose on 100 tabs of Tylenol, ___ mg each. On initial 
interview in emergency department on ___, pt reported that 
he had been feeling depressed with poor sleep and minimal 
appetite due to academic pressure at school. This led to the 
development of suicidal thoughts and pt reported overdosing on 
Tylenol with the intent to end his life. After medical 
stabilization and presentation to the inpatient psych unit, pt 
reported that he felt happy to be alive and that he felt he had 
a lot to live for.  He was noted to be pleasant and engaging on 
initial presentation to the unit. He was started on Zoloft 25 mg 
daily which was uptitrated to 50 mg daily during his hospital 
stay. Pt denies experiencing any side effects from this 
medication. He note significant improvement in his mood and 
sleep. Reported feeling more hopeful, less anxious, and also 
noted an improvement in his energy level and appetite. He was 
noted to have a brighter affect and to be more insightful. On 
day of discharge, pt voiced no complaints was agreeable to 
discharge, appeared bright, displayed forward-thinking. 

3. MEDICAL
No acute issues during hospitalization.

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was appropriate and pleasant 
in the milieu. 

#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Treatment team remained in contact with pt's mother throughout 
hospitalization with pt's consent. She came to inpatient psych 
unit to meet with treatment team on several occasions to receive 
clinical updates and assist in discharge planning. 

#) INTERVENTIONS
- Medications: Zoloft 50 mg 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: pt was set up with outpatient 
psychiatry and therapy appointments 
- Behavioral Interventions: reinforced coping skills, 
mindfulness, socialization 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon 
recent suicide attempt with stated intent to end his life.  His 
static factors noted at that time included recent suicide 
attempt, male gender, age and single status. The modifiable risk 
factors at that time included depressed mood with hopelessness, 
no established outpatient psychiatric providers, poor sleep, and 
suicidal ideation. These factors were addressed by individual, 
group, and milieu therapy, initiation of antidepressant 
medication, and connection with outpatient therapist and 
psychiatrist.  Finally, the patient is being discharged with 
many protective risk factors, including help-seeking nature, 
future-oriented viewpoint, support from mother, life 
satisfaction, medication compliance, no history of substance 
use. Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder severe, no psychotic features
Anxiety nos

 
Discharge Condition:
mental status: clear and coherent
level of consciousness: alert and interactive
activity status: ambulatory, independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___